US07713979B2
1-Cyclohexyl-3-[2,4-dichloro-4′-(3-dimethylamino-propoxy)-biphenyl-3-ylmethyl]-pyrrolidin-2-one hydrochloride
Place 3-(3-(4-hydroxyphenyl)-2,6-dichlorobenzyl)-1-cyclohexylpyrrolidin-2-one (0.200 g, 0.478 mmol), sodium iodide (0.072 g, 0.478 mmol, and cesium carbonate (1.25 g, 3.82 mmol) in acetone (lOmL). Add 3-bromo-N,N-dimethylpropan-1-amine hydrochloride (0.194 g, 0.956 mmol) and stir at room temperature for 3 hours. Add water and extract with DCM. Dry, filter, and concentrate. Purify by silica gel to give the free base. Dissolve in DCM and add 2M HCl in ether. Concentrate to give 84 mg (33%) of the title compound as a tan solid. Mass spectrum (apci) m/z=503.3 (M+H).

reactant | 3-(3-(4-hydroxyphenyl)-2,6-dichlorobenzyl)-1-cyclohexylpyrrolidin-2-one | 0.478 mmol, 0.200 g | OC1=CC=C(C=C1)C=1C(=C(CC2C(N(CC2)C2CCCCC2)=O)C(=CC1)Cl)Cl | C23H25Cl2NO2
reactant | sodium iodide | [I-].[Na+]
reactant | cesium carbonate | 3.82 mmol, 1.25 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-bromo-N,N-dimethylpropan-1-amine hydrochloride | 0.956 mmol, 0.194 g | Cl.BrCCCN(C)C
reactant | HCl | 2M | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 1-Cyclohexyl-3-[2,4-dichloro-4′-(3-dimethylamino-propoxy)-biphenyl-3-ylmethyl]-pyrrolidin-2-one hydrochloride | 84 mg, 33% | Cl.C1(CCCCC1)N1C(C(CC1)CC=1C(=C(C=CC1Cl)C1=CC=C(C=C1)OCCCN(C)C)Cl)=O | InChI=1S/C28H36Cl2N2O2.ClH/c1-31(2)16-6-18-34-23-11-9-20(10-12-23)24-13-14-26(29)25(27(24)30)19-21-15-17-32(28(21)33)22-7-4-3-5-8-22;/h9-14,21-22H,3-8,15-19H2,1-2H3;1H
